US08227625B2
Triphenylphosphine (3.94 g, 15 mmol) is added to a solution of 2-(4,5,6,7-tetrahydrobenzo[b]thiophen-4-yl)ethanol (2.74 g, 15 mmol) in Cl4C/Acetonitrile 1:1 (20 mL) at room temperature and the mixture is maintained under stirring for 3 hours monitoring the reaction by TLC. The solution is concentrated to half the volume at reduced pressure, CH2Cl2 is added and washed with water. The organic phase is separated and evaporated to dryness. The crude is treated with diethyl ether and the precipitate is filtered. The diethyl ether is evaporated to dryness, and the resulting crude is purified by column chromatography, giving 4-(2-chloroethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene (1.7 g, 8.4 mmol, 56%, oil). 1H NMR (300 MHz, CDCl3): δ 1.54 (m, 1H), 1.79 (m, 1H), 1.92 (m, 3H), 2.20 (m, 1H), 2.77 (m, 2H), 3.00 (m, 1H), 3.64 (m, 2H), 6.86 (d, J=5.2 Hz, 1H), 7.06 (d, J=5.2 Hz, 1H).

reactant | Triphenylphosphine | 15 mmol, 3.94 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(4,5,6,7-tetrahydrobenzo[b]thiophen-4-yl)ethanol | 15 mmol, 2.74 g | S1C2=C(C=C1)C(CCC2)CCO | C10H14OS
reactant | Cl4C Acetonitrile | 20 mL | C(Cl)(Cl)(Cl)Cl.C(C)#N
product | 4-(2-chloroethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene | 8.4 mmol, 1.7 g, 56% | ClCCC1CCCC=2SC=CC21 | C10H13ClS
